US07399759B2
2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione N-oxide
2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione (7.5 g, 32 mmol) and 3-chloroperbenzoic acid (77%, 14.3 g, 64 mmol) were dissolved in chloroform (250 ml), and the mixture was stirred at room temperature for 20 hrs. The solvent was evaporated, and the residue was washed with ethyl acetate to give the titled compound (8.0 g, 99%) as white crystals. 1H-NMR (CDCl3) δ: 5.16 (2H, s), 7.15 (1H, m), 7.24-7.26 (2H, m) 7.77 (2H, m), 7.90 (2H, m), 8.33 (1H, m).

reactant | 2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione | 32 mmol, 7.5 g | N1=C(C=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
reactant | 3-chloroperbenzoic acid | 64 mmol, 14.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Pyridylmethyl)-1H-isoindole-1,3(2H)-dione N-oxide | 8.0 g, 99% | N1=C(C=CC=C1)C[N+]1(C(C2=CC=CC=C2C1=O)=O)[O-] | C14H10N2O3
